US07816522B2
(98a) 1-fluoro-4-(2-fluoroethoxy)benzene
After adding 7.34 g of potassium carbonate and 8.31 g of 1-fluoro-2-iodoethane to a solution of 4.5 g of 4-fluorophenol in 50 ml of DMF, the mixture was stirred at room temperature for 27 hours. Water was added to the reaction mixture, and extraction was performed with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (4.6 g) as a colorless liquid.

reactant | potassium carbonate | 7.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-2-iodoethane | 8.31 g | FCCI | C2H4FI
reactant | 4-fluorophenol | 4.5 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-fluoro-4-(2-fluoroethoxy)benzene | 4.6 g | FC1=CC=C(C=C1)OCCF | C8H8F2O
